US05409928
(1) Preparation of 3-amino-4-[4-(2-phenylpropan-2-yl)phenyl]pyrazole
To a suspension of 3-amino-2-carbamoyl-4-[4-(2-phenylpropan-2-yl)phenyl]pyrazole (1.5 g) in methanol (20 ml) was added 5N sodium hydroxide solution (2 l), and the mixture was refluxed. To the mixture was added water (50 ml) under ice-cooling, and the mixture was neutralized (pH 7 to 8) with 10% hydrochloric acid solution, and was extracted with chloroform. The organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous potassium carbonate, and the solvent was distilled away under reduced pressure. The residue was separated and purified by using a silica-gel column chromatography (chloroform:methanol=1:3) to give the title compound (980 mg, 75.5%).

reactant | 3-amino-2-carbamoyl-4-[4-(2-phenylpropan-2-yl)phenyl]pyrazole | 1.5 g | NC=1N(N=CC1C1=CC=C(C=C1)C(C)(C)C1=CC=CC=C1)C(N)=O | C19H20N4O
reactant | sodium hydroxide | 5N, 2 l | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 3-amino-4-[4-(2-phenylpropan-2-yl)phenyl]pyrazole | 980 mg, 75.5% | NC1=NNC=C1C1=CC=C(C=C1)C(C)(C)C1=CC=CC=C1 | C18H19N3
